US04791199
acylating α-[2-[bis(1-methylethyl)amino]ethyl]-α-phenyl-2-piperidineacetamide with propanoic anhydride to form α-[2-[bis(1-methylethyl)amino]ethyl]-1-(1-oxopropyl)-α-phenyl-2-piperidineacetamide;

reactant | α-[2-[bis(1-methylethyl)amino]ethyl]-α-phenyl-2-piperidineacetamide | CC(C)N(CCC(C(=O)N)(C1NCCCC1)C1=CC=CC=C1)C(C)C | C21H35N3O
reactant | propanoic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
product | α-[2-[bis(1-methylethyl)amino]ethyl]-1-(1-oxopropyl)-α-phenyl-2-piperidineacetamide | CC(C)N(CCC(C(=O)N)(C1N(CCCC1)C(CC)=O)C1=CC=CC=C1)C(C)C | C24H39N3O2
